Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
lethargy
 
Major Surgical or Invasive Procedure:
trans-esophageal echocardiogram
 
History of Present Illness:
___ year old female with minimal PMHx (lyme disease ___ here 
with 2 days of chills, body aches, fatigue, malaise and 
lethargy. She is very active and cognitively intact at baseline. 
She endorsed chills, generalized achiness and fatigue one day 
prior to admission. The day of admission she was supposed to 
baby-sit ___ daughter's children and she did not show up- highly 
unusual for ___ daughter went to go check on ___ and 
noticed that she had not gotten out of bed and appeared 
lethargic, so called ___ to bring ___ to the ED.
   Broad ROS negative for headachecs, fevers (did not take 
temp), sinus pain, changes in vision, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, rashes, pain in 
___ legs. ___ family notes gradual weight loss over the last 
year. She does note 2 episodes of diarrhea that occured 
yesterday, non-bloody.
   Also of note, multiple family members have recently been 
treated for Lyme disease. She has not traveled anywhere 
recently. No one aroundher has had a bacterial or viral 
infection. She lives alone in ___. Has not taken 
antibiotics recently and has not been hospitalized recently.
  ___ ED course notable for fever to 102.6 , initial HR 110, 
responsive to fluids, one BP (95/60). WBC 23.6, neutrophilic 
predominance. Got 500 ccs NS x2. Lactate 2.4. Treated 
empirically for UTI with CTX. CXR without pneumonia, UA was 
clean, a parasite smear is pending.

 
Past Medical History:
COLONIC ADENOMA                                                 
GASTRITIS- ACTIVE AND CHRONIC ON UPPER ENDO- H PYLORI           
POS                                                             
H PYLORI - POS                                                  
HYPERTENSION                                                    
MITRAL VALVE PROLAPSE WITH MODERATE MITRAL                      
REGURGITATION                                                   
MODERATE TRICUSPID REGURGITATION                                
HEARING LOSS                                                    
LUMBOSACRAL RADICULOPATHY                                       
GLAUCOMA                                                        
RAYNAUD'S SYNDROME                                              
 
Social History:
___
Family History:
No history of recurrent infections.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS -  98.2 HR 109 109/55 RR 25 96% RA
General:  Appears ill. 
HEENT:  No scleral icterus or conjunctival pallor. No sinus 
tendreness. No pharyngeal erythema. No cervical or 
supraclavicular adenopathy.
Neck:  supple.
CV:  regular tachy. Faint murmur RUSB.
Lungs:  Clear to auscultation bilterally.
Abdomen:  Soft, non-tender, non-distended. Bowel sounds present. 
No CVA tenderenss.
GU: Labia grossly normal.
Ext: WWP. no edema.   
Neuro: Somnolent, opens eyes to voice and interacts 
appropriately. Unable to name months of year backwards. Repetion 
and naming intact. CN II-XII intact. Moving all extremities. 
Skin:  No rashes, no tickes in groin, under knees or in elbow 
crease.

DISCHARGE PHYSICAL EXAM:
VS -  Tmax 98.3 Tc 97.6 HR 65-100 in Afib BP 90-100s/50-70s, RR 
16, SpO2 100% 2L, I/O 24 hr 200/2280; 8hr 50/300. Wt.  41.5 kg
General: Well-appearing in NAD.
CV: irregular rhythm, rate normal. Systolic murmurs at LLSB and 
apex.
Lungs:  CTAB
Abdomen:  Soft, non-tender, non-distended. 
Ext: Feet and hands warm. 2+ pitting edema in bilateral lower 
extremities.   
Neuro: alert and oriented x3.
 
Pertinent Results:
ADMISSION:

___ 11:30PM   ___ PO2-76* PCO2-35 PH-7.39 TOTAL CO2-22 
BASE XS--2 COMMENTS-GREEN TOP
___ 11:30PM   LACTATE-2.2*
___ 02:00PM URINE  HOURS-RANDOM
___ 02:00PM URINE  HOURS-RANDOM
___ 02:00PM URINE  GR HOLD-HOLD
___ 02:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:00PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 02:00PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 02:00PM URINE  MUCOUS-RARE
___ 12:58PM   ___ COMMENTS-GREEN TOP 
___ 12:58PM   LACTATE-2.4*
___ 12:35PM   GLUCOSE-134* UREA N-15 CREAT-0.8 SODIUM-134 
POTASSIUM-3.7 CHLORIDE-97 TOTAL CO2-24 ANION GAP-17
___ 12:35PM   estGFR-Using this
___ 12:35PM   ALT(SGPT)-19 AST(SGOT)-27 LD(LDH)-207 ALK 
PHOS-75 TOT BILI-0.9
___ 12:35PM   LIPASE-20
___ 12:35PM   ALBUMIN-3.8
___ 12:35PM   WBC-23.6*# RBC-3.74* HGB-11.2* HCT-34.3* 
MCV-92 MCH-30.1 MCHC-32.7 RDW-14.6
___ 12:35PM   NEUTS-84.4* LYMPHS-4.8* MONOS-10.7 EOS-0 
BASOS-0.1
___ 12:35PM   PLT COUNT-164
___ 12:35PM   PARST SMR-NEGATIVE

Imaging:
___ CXR: COPD. 9 mm ill-defined, possibly spiculated opacity 
projecting over the right upper lung, not clearly seen on the 
prior study. Recommend outpatient chest CT for further 
evaluation for concerning pulmonary nodule. 

MRI C/T/L spine negative for epidural abscess.

TTE ___: The left atrium is mildly dilated. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is normal (LVEF 70%). The right ventricular free wall 
thickness is normal. The right ventricular cavity is mildly 
dilated with normal free wall contractility. There are focal 
calcifications in the aortic arch. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. The 
mitral valve leaflets are mildly thickened. There is moderate 
bileaflet mitral valve prolapse. An eccentric, posteriorly 
directed jet of Severe (4+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. Severe [4+] 
tricuspid regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. [In the setting of at least 
moderate to severe tricuspid regurgitation, the estimated 
pulmonary artery systolic pressure may be underestimated due to 
a very high right atrial pressure.] There is no pericardial 
effusion. 
IMPRESSION: no vegetations seen (best excluded by TEE). If 
clinically suggested, the absence of a vegetation by 2D 
echocardiography does not exclude endocarditis.Compared with the 
prior study (images reviewed) of ___, the mitral 
regurgitation and tricuspid regurgitation are both worse. 

TEE: No spontaneous echo contrast or thrombus is seen in the 
body of the left atrium/left atrial appendage or the body of the 
right atrium/right atrial appendage. No atrial septal defect is 
seen by 2D or color Doppler. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion without 
vegetation or abscess. No aortic regurgitation is seen. There is 
mild posterior leaflet mitral valve prolapse.There is prominent 
mitral annular calcification with no obvious signs of 
endocarditis. Moderate to severe (3+) mitral regurgitation is 
seen. Severe [4+] tricuspid regurgitation is seen there is no 
tricuspid valve vegetation or abscess. There is no pericardial 
effusion. IMPRESSION: No clear valve vegetations or abscess 
seen.  

Micro:

___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{STAPH AUREUS COAG +}; Anaerobic Bottle Gram Stain-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{STAPH AUREUS COAG +}; Anaerobic Bottle Gram Stain-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{STAPH AUREUS COAG +}; Aerobic Bottle Gram Stain-FINAL; 
Anaerobic Bottle Gram Stain-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{STAPH AUREUS COAG +}; Aerobic Bottle Gram Stain-FINAL; 
Anaerobic Bottle Gram Stain-FINAL 
All blood cultures after ___ NEGATIVE

___ STOOL C. difficile DNA amplification 
assay-FINAL; FECAL CULTURE-FINAL; CAMPYLOBACTER CULTURE-FINAL 

DISCHARGE:
___ 05:48AM BLOOD WBC-8.8 RBC-2.90* Hgb-8.4* Hct-26.7* 
MCV-92 MCH-29.0 MCHC-31.5 RDW-16.0* Plt ___
___ 05:48AM BLOOD Plt ___
___ 05:48AM BLOOD ___ PTT-32.7 ___
___ 05:48AM BLOOD Glucose-116* UreaN-25* Creat-0.9 Na-135 
K-4.2 Cl-96 HCO3-33* AnGap-10
___ 06:56AM BLOOD ALT-10 AST-46* AlkPhos-79 TotBili-0.5
___ 05:48AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.0
___ 06:28AM BLOOD Lactate-1.7
 
Brief Hospital Course:
HOSPITAL COURSE: ___ F with minimal past medical history (HTN, 
mild MR, TR) who presented with sepsis and was found to have 
high grade MSSA bacteremia. A source was never identified and 
she was treated with cefazolin, with plans to complete a four 
week course. After being fluid resuscitated for ___ sepsis she 
developed rapid atrial fibrillation and recurrent flash 
pulmonary edema. She was found to have new severe MR and TR, 
without vegetations on the valves, and with dilated atria 
suggesting a chronic process. She was transfered to the 
cardiology service and then to medicine for management. She was 
in decompensated heart failure and diuresed with good effect.

ACTIVE ISSUES:
#Sepsis: Presented with fevers, lethargy, SIRS physiology, WBC 
count 23 with neutrophilic predominance. Blood cultures grew 
MSSA. No source was ever identified. MRI of the C/T/L spine was 
performed given recent history of epidural injections, and was 
negative for an abscess. First negative cultures ___.  She was 
initially treated broadly, subsequently narrowed to IV 
Cefazolin, with plans to complete a four week course (to end on 
___, and follow up with ID before completion. 

#Afib:  After ___ L fluid resuscitation initially, found to be 
in rapid Atrial fibrillation, HR 140-160, asymptomatic. Systolic 
pressures in the ___. Systolic pressures dropped significant 
with IV nodal agents, though she maintained normal mentation. 
Additional IV fluid was administered and she was transferred to 
the MICU for cardioversion. Once in the MICU, she converted 
spontaneously. ___ rates were subsequently controlled with 
standing oral diltiazem, and pushes of 15 mg diltiazem IV for 
heart rates>140. ___ blood pressures subsequently remained 
stable.  She subequently remained in Afib and was asymptomatic 
with rates ___. No cardioversion was attempted given that 
the Afib was felt ___ dilated L atrium from ___ severe MR, and 
she was unlikely to remain stably in sinus. She will continue to 
take diltiazem SR 240 mg and warfarin 2 mg daily. 

#Severe mitral regurgitation, tricuspid regurgitation, 
congestive heart failure: After copious fluid resuscitation 
during sepsis and rapid Afib, patient developed acute shortness 
of breath. CXR with pulmonary edema. TTE revealed severe 4+ MR 
and TR with MVP, new since ___.  ___ ruled out vegetations 
and confirmed the findings. Dilated atria on ECHO  and pulmonary 
hypertension suggest that ___ valvular lesions had been present 
for some time. LVEF was 70%, but this may have been 
significantly overestimated given the degree of MR. ___ 
shortness of breath and pulmonary edema were precipitated by 
copious fluid resuscitation increasing ___ left atrial 
pressures.  She developed pitting edema to the mid thigh on exam 
and had cool hands and feet and a lactate >3, findings suggested 
of decompensated heart failure. She was transferred to a 
cardiology service where a strategy of diuresis and afterload 
reduction (Captopril) was undertaken, with dramatic improvement 
in ___ symptoms, clinical examination, and lab evidence of 
global tissue perfusion.
     She was initially seen by cardiac surgery who felt ___ to 
not currently be candidate for surgery because of poor 
nutritional status, weight 91 lbs. She will continue to take 
torsemide 20 mg daily and captopril 25 mg TID with strict fluid 
monitoring, with daily weights, and ins and outs. She will 
optimize ___ nutritional status, consuming meals with 
supplementation. While medically stable, lactate has ranged from 
1.4 to 3.4. If lactate increases past 4, she will require 
adjustment in afterload reduction with captopril and more 
diuresis. 

# Patient was found to be severely malnourished with weight 
91lbs, per nutrition consult noted to have improving po intake 
and receiving encouragement from family. At discharge, patient 
had 3 meals yesterday w/ snacks w/ intake varying from
50-100% of meals. Encouraged patient to have 3 meals per day and 
discussed incorporating ___ high calorie snacks like nuts, 
custard, peanut butter in between meals to increase calories. 
RECOMMENDATIONS:
- Encourage 3 meals w/ ___ snacks per day and at least 75% 
intake at all meals
- Monitor Chem10 and replete lytes prn
- Monitor I/O's and weight

#Hypocalcemia: Not an active issue during this hospitalization. 
-Vit D, PTH to be checked as outpatient.

#Spiculated nodule RUL: given history of weight loss, concerning 
for lung cancer. However, do not feel this is contributing to 
___ current presentaiton.
-F/u CAT scan as outpatient in 3 months 

TRANSITIONAL ISSUES:
-complete cefazolin on ___
-please follow up with ID - before completion of cefazolin 
-please get daily LFTs, daily lactate, electrolytes every other 
day
-Continue torsemide 20mg daily with adjustment based on 
continual assessment of volume status, dry weight 41.5kg. ___ 
call cardiac services ___, NP ___ for 
questions regarding volume status.
-spiculated nodule RUL noted on imaging; CT scan needed as an 
outpatient in 3 months to follow up
-follow up with cardiac surgery in 3 weeks - ___ at 1:45PM Dr. 
___ ___
-follow up with cardiac services on ___ 
-Requires sustained nutritional support with supplements, with 
understanding that dry weight may incrase with increased calorie 
intake. 

FYI: CODE: Full (confirmed)  
EMERGENCY CONTACT HCP:  ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY PRN 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
3. Captopril 25 mg PO TID 
4. CefazoLIN 2 g IV Q8H 
5. Diltiazem Extended-Release 240 mg PO DAILY 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY PRN 
7. Warfarin 2 mg PO DAILY16 
8. Torsemide 20 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
MSSA Sepsis
Severe mitral regurgitation
Atrial fibrillation with rapid ventricular response
Flash pulmonary edema
Decompensated congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you at ___. You were admitted 
because you had chills and fatigue. You were found to have 
bacteria in your blood, an irregular heart rhythm, and fluid in 
your lungs. We also found that the mitral valve in your heart is 
not working properly and may require surgical repair. In order 
to be a good candidate for surgery, it is very important that 
you eat, gain weight, and complete your antibiotics.
Best wishes,
Your ___ Medicine Team
 
Followup Instructions:
___